US04115382
A. N-Benzylidene-o-(3-dimethylaminopropylthio)aniline
A mixture of 51g of 2-(3-dimethylaminopropylthio)aniline, 26g of freshly distilled benzaldehyde and 200 ml of xylene is refluxed under an atmosphere of nitrogen. The water formed in the reaction is collected in a Dean-Stark tube; the theoretical quantity is collected after 4 hours of refluxing. The xylene and any unchanged benzaldehyde are removed on the steam bath at 30 mm of Hg, finally at 2 mm of Hg. Fractionation of the residue yields 56g of the title compound, boiling point 182°-189° C. at 0.4 mm of Hg.

reactant | 2-(3-dimethylaminopropylthio)aniline | CN(CCCSC1=C(N)C=CC=C1)C | C11H18N2S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | N-Benzylidene-o-(3-dimethylaminopropylthio)aniline | C(C1=CC=CC=C1)=NC1=C(C=CC=C1)SCCCN(C)C | C18H22N2S
